US05183820
7-Fluoro-1-methyl-1H-indole-2-methanol
Ethyl 7-fluoro-1-methyl-1H-indole-2-carboxylate (4.5 g) was dissolved in dry THF (50 ml), and cooled to -78° under nitrogen. Diisobutylaluminium hydride (DIBAL) (1M solution in hexane; 22.3 ml) was added and the mixture was stirred at -78° for 3 h, then allowed to warm to room temperature over 1 h. A further portion of DIBAL :(3 ml) was added to the recooled mixture at -78°, and stirring was continued for a further 16 h. Saturated ammonium chloride solution (10 ml) was added and the mixture was stirred for 30 min. Magnesium sulphate (dried, 10 g) was added, and the resultant mixture was filtered and evaporated in vacuo to leave an oil which was purified by FCC eluting with ether:hexane (1:1) to give the title compound (1.55 g) as a solid, m.p. 89°-91°.

reactant | Ethyl 7-fluoro-1-methyl-1H-indole-2-carboxylate | 4.5 g | FC=1C=CC=C2C=C(N(C12)C)C(=O)OCC | C12H12FNO2
reactant | Diisobutylaluminium hydride | 1M, 22.3 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ammonium chloride | 10 ml | [Cl-].[NH4+]
reactant | Magnesium sulphate | 10 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 7-Fluoro-1-methyl-1H-indole-2-methanol | 1.55 g | FC=1C=CC=C2C=C(N(C12)C)CO | C10H10FNO
